US05491173
(b) 1,2-bis(4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino) -ethoxy]phenyl]-1-buten-4-ol, mixture of E- and Z-isomers
A mixture containing 5.8 g of 1,2-bis(4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino)ethoxy]phenyl]butan-1,4-diol and 20 ml of acetic anhydride is heated at 90° C. for 1 hour. 3.7 g of acetyl chloride is added and the mixture is heated at 80° C. for 0.5 h. The solvent is evaporated. 0.75 g of sodium hydroxide in 200 ml of 80% methanol is added and the mixture is refluxed for 3 hours. The mixture is allowed to cool to room temperature. The crystallized product is collected by filtration. The yield is 4.7 g (83%).

reactant | 1,2-bis(4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino)ethoxy]phenyl]butan-1,4-diol | 5.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CCO)C1=CC=C(C=C1)OCC1=CC=CC=C1)(O)C1=CC=C(C=C1)OCCN(C)C | C40H43NO5
reactant | acetyl chloride | 3.7 g | C(C)(=O)Cl | C2H3ClO
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2-bis(4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino) -ethoxy]phenyl]-1-buten-4-ol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=C(CCO)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCCN(C)C | C40H41NO4
